US07402581B2
[2-(4-Fluoro-2-methylphenyl)-4-(tetrahydro-2H-pyran-2-yloxy)butyl]amine (0.40 g, 1.4 mmol), 3-cyano-5,6,7,8-tetrahydronaphthalene-1-carboxylic acid (see WO 00/34243; 0.32 g, 1.6 mmol) and DCC (0.35 g, 1.7 mmol) were mixed with CH2Cl2 (5 mL). The mixture was stirred at room temperature overnight and then filtrated and the solvent was evaporated. The product was purified by chromatography on silica gel using methanol and CH2Cl2 (0%-2% methanol). There was obtained 600 mg (91%) of 3-cyano-N-[2-(4-fluoro-2-methylphenyl)-4-(tetrahydro-2H-pyran-2-yloxy)butyl]-5,6,7,8-tetrahydronaphthalene-1-carboxamide as a foam. 1H NMR (500 MHz, CDCl3): 1.0-1.9 (m, 9H), 2.0-2.1 (m, 1H), 2.4 (d, 3H), 2.6-2.8 (m, 4H), 3.2-3.8 (m, 7H), 4.4-4.5 (d, 1H), 6.0-6.2 (m, 1H), 6.9 (m, 2H), 7.1-7.3 (m, 2H), 7.4 (s, 1H). LCMS: m/z 463 (M−1)−.

reactant | [2-(4-Fluoro-2-methylphenyl)-4-(tetrahydro-2H-pyran-2-yloxy)butyl]amine | 1.4 mmol, 0.40 g | FC1=CC(=C(C=C1)C(CN)CCOC1OCCCC1)C | C16H24FNO2
reactant | 3-cyano-5,6,7,8-tetrahydronaphthalene-1-carboxylic acid | 1.6 mmol, 0.32 g | C(#N)C=1C=C(C=2CCCCC2C1)C(=O)O | C12H11NO2
reactant | DCC | 1.7 mmol, 0.35 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-cyano-N-[2-(4-fluoro-2-methylphenyl)-4-(tetrahydro-2H-pyran-2-yloxy)butyl]-5,6,7,8-tetrahydronaphthalene-1-carboxamide | 600 mg, 91% | C(#N)C=1C=C(C=2CCCCC2C1)C(=O)NCC(CCOC1OCCCC1)C1=C(C=C(C=C1)F)C | C28H33FN2O3
